US09126993B2
1-azabicyclo[2.2.2]oct-3-yl{2-[4-fluoro-3-(pyrimidin-5-yl)phenyl]propan-2-yl}carbamate
Using general procedure E, 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromo-4-fluorophenyl)propan-2-yl]carbamate (150 mg, 0.389 mmol), pyrimidine-5-boronic acid (75.9 mg, 0.613 mmol) and tris(dibenzylideneacetone)dipalladium(0) gave the title compound as a white solid (49 mg, 31%). 1H NMR (400 MHz, CDCl3) δ 9.22 (s, 1H), 8.92 (s, 2H), 7.55-7.41 (m, 2H), 7.19 (dd, J=8.7, 9.9 Hz, 1H), 5.37 (s, 1H), 4.72-4.49 (m, 1H), 3.34-2.04 (m, 6H), 2.04-0.98 (m, 5H), 1.66 (t, J=10.9 Hz, 6H) ppm. 13C NMR (100 MHz, CDCl3) δ 159.9, 157.9, 157.4, 156.6, 154.7, 130.2, 127.85, 127.77, 126.9, 122.0, 121.8, 116.7, 116.5, 116.2, 71.6, 55.9, 54.9, 47.6, 46.7, 30.3, 29.6, 25.6, 24.8, 19.8 ppm. Purity: 93% UPLCMS (210 nm); retention time 0.63 min; (M+1) 384.9

reactant | 1-azabicyclo[2.2.2]oct-3-yl[2-(3-bromo-4-fluorophenyl)propan-2-yl]carbamate | 0.389 mmol, 150 mg | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=CC(=C(C=C2)F)Br)=O | C17H22BrFN2O2
reactant | pyrimidine-5-boronic acid | 0.613 mmol, 75.9 mg | N1=CN=CC(=C1)B(O)O | C4H5BN2O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-azabicyclo[2.2.2]oct-3-yl{2-[4-fluoro-3-(pyrimidin-5-yl)phenyl]propan-2-yl}carbamate | 49 mg, 31% | N12CC(C(CC1)CC2)OC(NC(C)(C)C2=CC(=C(C=C2)F)C=2C=NC=NC2)=O | C21H25FN4O2
